US05250504
By the method of Example 5, Step D, 106 g (0.331 mole) of 4-cyano-5-methyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole was reacted with 71.1 g (0.40 mole) of N-bromosuccinimide in 2000 mL of carbon tetrachloride, yielding 136.7 g of 5-bromomethyl-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole as red oil, a portion of which later solidified.

reactant | 4-cyano-5-methyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole | 0.331 mole, 106 g | C(#N)C=1C=NN(C1C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H6Cl2F3N3
reactant | N-bromosuccinimide | 0.40 mole, 71.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 2000 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole | 136.7 g | BrCC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C12H5BrCl2F3N3
